US06872731B2
3′-(7-Fluoromethylimidazo[1,2-α]pyridin-3-yl)biphenyl-2-carbonitrile
To a cooled (−78° C.) suspension of 3′-(7-hydroxymethylimidazo[1,2-α]pyridin-3-yl)biphenyl-2-carbonitrile (96 mg, 0.30 mmol) in dichloromethane (20 ml) was added (diethylamino)sulfur trifluoride (50 mg, 0.31 mmol) dropwise over 5 min. The mixture was stirred at −78° C. for 20 min then allowed to warm to −40° C. for 5 min before quenching the reaction with a pre-cooled −40° C. solution of acetic acid (0.5 ml) in dichloromethane (5 ml). The mixture was warmed to ambient temperature, made basic with saturated sodium hydrogencarbonate solution (30 ml) and extracted with dichloromethane (2×75 ml). The combined organics were washed with brine (30 ml), dried over anhydrous sodium sulfate and evaporated to dryness. Purification by silica gel chromatography eluting with dichloromethane and 1% conc. ammonia on a gradient of methanol (1-2%) gave a solid which was triturated with diethyl ether to give the title compound (84 mg, 87%) as a white powder. 1H NMR (400 MHz, CDCl3) δH 5.45 (2H, d, J 47), 6.90 (1H, dd, J 7 and 2), 7.50 (1H, dt, J 8 and 1), 7.57-7.60 (2H, m), 7.61-7.72 (4H, m), 7.78-7.84 (3H, m), 8.61 (1H, dd, J 7 and 1); m/z (ES+) 328 (M++H).

reactant | 3′-(7-hydroxymethylimidazo[1,2-α]pyridin-3-yl)biphenyl-2-carbonitrile | 0.30 mmol, 96 mg | OCC1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C=2C(=CC=CC2)C#N | C21H15N3O
reactant | (diethylamino)sulfur trifluoride | 0.31 mmol, 50 mg | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | sodium hydrogencarbonate | 30 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3′-(7-Fluoromethylimidazo[1,2-α]pyridin-3-yl)biphenyl-2-carbonitrile | 84 mg, 87% | FCC1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C=2C(=CC=CC2)C#N | C21H14FN3
